US07601844B2
N-(1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)benzamide
A reaction vessel was charged with benzoyl-DL-valine (24 mg), HOBt (16 mg), DIEA (57 μL), 4-(4-chlorophenyl)piperidine hydrochloride (28 mg) and EDC (23 mg) in DMF (1.5 mL) and then agitated at rt. for 16 h. At the conclusion of this period, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 208. MS found: (M+H)+=399.

reactant | benzoyl-DL-valine | 24 mg | C(C1=CC=CC=C1)(=O)NC(C(C)C)C(=O)O | C12H15NO3
reactant | HOBt | 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 57 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | 28 mg | Cl.ClC1=CC=C(C=C1)C1CCNCC1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | EDC | 23 mg
product | N-(1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)benzamide | ClC1=CC=C(C=C1)C1CCN(CC1)C(C(C(C)C)NC(C1=CC=CC=C1)=O)=O | C23H27ClN2O2
